US07592477B2
Step a) Formation of ethyl{benzyl[4-(tridecanoylamino)benzyl]amino}(oxo)acetate
The same procedure as employed in the preparation of Example 5, step d using ethyl[(4-aminobenzyl)(benzyl)amino](oxo)acetate and tridecanoic acid gave the title compound as a colorless oil (39%). M−(ESI): 507.2. HPLC (Condition A), Rt: 7 min (HPLC purity-91.3%).

reactant | ethyl[(4-aminobenzyl)(benzyl)amino](oxo)acetate | C(C)OC(C(=O)N(CC1=CC=CC=C1)CC1=CC=C(C=C1)N)=O | C18H20N2O3
reactant | tridecanoic acid | C(CCCCCCCCCCCC)(=O)O | C13H26O2
product | ethyl{benzyl[4-(tridecanoylamino)benzyl]amino}(oxo)acetate | 39% | C(C)OC(C(=O)N(CC1=CC=C(C=C1)NC(CCCCCCCCCCCC)=O)CC1=CC=CC=C1)=O | C31H44N2O4
